US06486156B1
A solution of methyl 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate (3 g; 7 mmol), sodium hydroxide (0.8 g; 20 mmol) and distilled water (5 ml) in methanol (50 ml) was refluxed for 4 hours. After evaporation to dryness and acidification to pH 6 with 6N HCl, the resulting solid was triturated with water and ether to give 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid as a mixture of E and Z isomers.

reactant | methyl 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | 7 mmol, 3 g | C(C1=CC=CC=C1)N1C(=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C27H23FN2O2
reactant | sodium hydroxide | 20 mmol, 0.8 g | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid | C(C1=CC=CC=C1)N1C(=NC=C1)CC=CC1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F | C26H21FN2O2
